US05068320
6-(Cyclopropylmethylamino)-9-[(2R,5S)-tetrahydro-5-(hydroxymethyl)-2-furyl]-9H-purine (0.319 g, 1.1 mmoles), 4-dimethylaminopyridine (10 mg, 0.1 mmoles, Aldrich Chemical Co., Madison, Wis.), and triethylamine (1.0 mL, 7 mmoles, Aldrich Chemical Co., Madison, Wis.) were dissolved in 50 mL acetonitrile. Methoxyacetyl chloride (460 μm, 5.0 mmoles, Aldrich Chemical Co., Madison, Wis.) was added and the reaction was stirred at room temperature for 6 hours. The reaction was quenched with methanol and solvents were evaporated in vacuo. The residue was dissolved in acetone and passed over a silica gel column (4.8×13 cm). The UV absorbing eluent was concentrated and separated on a Chromatotron (4 mm silica gel plate) with a mixture of chloroform:acetone (95:5). Solvents were removed in vacuo and the residue was further purified on a preparative silica gel plate (20×20×0.2 cm) developed in a mixture of chloroform:acetone (70:30). The product was scraped from the preparative plate and eluted from the silica gel with ethanol. Lyophilization afforded 0.217 g of 6-(cyclopropylmethylamino)-9-[(2R,5S)-5-[(methoxyacetoxy)methyl]-tetrahydro-2-furyl]-9H-purine as an oil (53% yield).

reactant | 6-(Cyclopropylmethylamino)-9-[(2R,5S)-tetrahydro-5-(hydroxymethyl)-2-furyl]-9H-purine | 1.1 mmoles, 0.319 g | C1(CC1)CNC1=C2N=CN(C2=NC=N1)[C@@H]1O[C@@H](CC1)CO | C14H19N5O2
reactant | triethylamine | 7 mmoles, 1.0 mL | C(C)N(CC)CC | C6H15N
reactant | Methoxyacetyl chloride | 5.0 mmoles | COCC(=O)Cl | C3H5ClO2
catalyst | 4-dimethylaminopyridine | 0.1 mmoles, 10 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 6-(cyclopropylmethylamino)-9-[(2R,5S)-5-[(methoxyacetoxy)methyl]-tetrahydro-2-furyl]-9H-purine | 0.217 g, 53% yield | C1(CC1)CNC1=C2N=CN(C2=NC=N1)[C@@H]1O[C@@H](CC1)COC(COC)=O | C17H23N5O4
